US05935756
77 [ml] of acetyl chloride was added to 70.3 [g] of 1,4-di-n-butoxybenzene, 50.7 [g] of aluminum chloride was added while cooling on ice, and the reaction was carried out while stirring at -5° C. for 1 hour. The reaction liquor was poured into 1000 [ml] of water, and extracted twice with 500 [ml] methylene chloride. The extraction solution (i.e. the methylene chloride solution) was washed with water, and concentrated by evaporating off the methylene chloride as solvent under reduced pressure. Concentration of the extraction solution was continued until almost no further methylene chloride remained. The concentrated extraction solution was then subjected to chromatography on a silica gel column using a mixture of n-hexane and ethyl acetate (volume ratio of n-hexane:ethyl acetate=30:1) as eluent, and a 77.2 [g] yield of 2-acetyl-1,4-di-n-butoxybenzene was thereby obtained.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 1,4-di-n-butoxybenzene | C(CCC)OC1=CC=C(C=C1)OCCCC | C14H22O2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | O | H2O
product | 2-acetyl-1,4-di-n-butoxybenzene | C(C)(=O)C1=C(C=CC(=C1)OCCCC)OCCCC | C16H24O3
